US06114332
Similar reaction of 2-amino-3-trifluoromethylbenzoic acid and methyl-2-iodobenzoate by the reported method [Rewcastle and Denny, Synth. Comm, 1987, 17, 309] gave 3-trifluoromethyl-2-[(2-methoxycarbonyl)phenyl)amino]benzoic acid (51%), mp (MeOH/H2O) 113-115° C. 1H NMR [(CD3)2SO] δ 3.89 (s, 3 H, CO2CH3), 6.35 (d, J=8.5 Hz, 1 H, ArH), 6.78 (t, J=7.5 Hz, 1 H, ArH), 7.30 (ddd, J=7.8, 7.8, 1.6 Hz, 1 H, ArH), 7.59 (t, J=7.8 Hz, 1 H, ArH), 7.88 (dd, J=8.0, 1.5 Hz, 1 H, ArH), 8.03 (d, J=7.4 Hz, 1 H, ArH), 8.07 (d, J=8.07 Hz, 1 H, ArH), 9.49 (s, 1 H, NH), 13.15 (br s, 1 H, COOH). Anal. (C16H12F3NO2) C, H, N, F.

reactant | 2-amino-3-trifluoromethylbenzoic acid | NC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H6F3NO2
reactant | methyl-2-iodobenzoate | COC(C1=C(C=CC=C1)I)=O | C8H7IO2
solvent | MeOH H2O | CO.O
product | benzoic acid | 51% | C(C1=CC=CC=C1)(=O)O | C7H6O2
